### PR TITLE
[Merged by Bors] - feat: More clique lemmas

### PR DESCRIPTION
**Pull request by YaelDillies**
Forward port https://github.com/leanprover-community/mathlib/pull/19203

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Basic.lean [hunk 1]
```diff
@@ -418,6 +419,16 @@ theorem emptyGraph_eq_bot (V : Type u) : emptyGraph V = ⊥ :=
...
 
+instance [Subsingleton V] : Unique (SimpleGraph V) where
+  default := ⊥
+  uniq G := by ext a b; simp [Subsingleton.elim a b]
+
+-- porting note: Was
+-- ⟨⟨⊥, ⊤, fun h => not_subsingleton V ⟨by simpa [ext_iff, Function.funext_iff] using h⟩⟩⟩
+instance [Nontrivial V] : Nontrivial (SimpleGraph V) :=
+  ⟨⟨⊥, ⊤, fun h ↦ not_subsingleton V ⟨by simpa only [SimpleGraph.ext_iff, Function.funext_iff,
+    top_adj, bot_adj, ne_eq, eq_iff_iff, false_iff, not_not] using h⟩⟩⟩
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/SimpleGraph/Basic.lean:430]:
```suggestion
instance [Nontrivial V] : Nontrivial (SimpleGraph V) :=
  ⟨⟨⊥, ⊤, fun h ↦ not_subsingleton V ⟨by
    -- porting note: Was `simpa [ext_iff, Function.funext_iff] using h`
    simpa only [SimpleGraph.ext_iff, Function.funext_iff,
      top_adj, bot_adj, ne_eq, eq_iff_iff, false_iff, not_not] using h⟩⟩⟩
```

File: Mathlib/Combinatorics/SimpleGraph/Basic.lean [hunk 2]
```diff
@@ -1299,23 +1349,69 @@ theorem map_adj (f : V ↪ W) (G : SimpleGraph V) (u v : W) :
...
+@[simp]
+theorem map_id : G.map (Function.Embedding.refl _) = G :=
+  SimpleGraph.ext _ _ <| Relation.map_id_id _
+#align simple_graph.map_id SimpleGraph.map_id
+
+@[simp]
+theorem map_map (f : V ↪ W) (g : W ↪ X) : (G.map f).map g = G.map (f.trans g) :=
+  SimpleGraph.ext _ _ <| Relation.map_map _ _ _ _ _
+#align simple_graph.map_map SimpleGraph.map_map
+
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/SimpleGraph/Basic.lean:1365]: I assume moving these above `map_monotone` was deliberate?

File: Mathlib/Combinatorics/SimpleGraph/Basic.lean [hunk 3]
```diff
@@ -1299,23 +1349,69 @@ theorem map_adj (f : V ↪ W) (G : SimpleGraph V) (u v : W) :
...
+    DecidableRel (G.map f).Adj :=
+  ‹DecidableRel _›
+#align simple_graph.decidable_map SimpleGraph.decidableMap
+
 /-- Given a function, there is a contravariant induced map on graphs by pulling back the
 adjacency relation.
 This is one of the ways of creating induced graphs. See `SimpleGraph.induce` for a wrapper.
 
 This is surjective when `f` is injective (see `SimpleGraph.comap_surjective`).-/
-@[simps]
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/SimpleGraph/Basic.lean:1312]: Why did this change?

File: Mathlib/Combinatorics/SimpleGraph/Basic.lean [hunk 4]
```diff
@@ -1745,13 +1863,27 @@ infixl:50 " ≃g " => Iso
...
+#align simple_graph.hom.coe_id SimpleGraph.Hom.coe_id
+
+instance [Subsingleton (V → W)] : Subsingleton (G →g H) := FunLike.coe_injective.subsingleton
+
+instance [IsEmpty V] : Unique (G →g H) where
+  default := ⟨isEmptyElim, fun {a} ↦ isEmptyElim a⟩
+  uniq _ := Subsingleton.elim _ _
+
+noncomputable instance [Fintype V] [Fintype W] : Fintype (G →g H) := by
+  classical exact FunLike.fintype _
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/SimpleGraph/Basic.lean:1883]: I don't like the look of this instance, but that's out of scope for a forward-port PR.

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 5]
```diff
@@ -173,7 +229,7 @@ theorem not_cliqueFree_of_top_embedding {n : ℕ} (f : (⊤ : SimpleGraph (Fin n
   simp only [coe_map, Set.mem_image, coe_univ, Set.mem_univ, true_and_iff] at hv hw
   obtain ⟨v', rfl⟩ := hv
   obtain ⟨w', rfl⟩ := hw
-  simp only [coe_sort_coe, RelEmbedding.coe_toEmbedding, comap_Adj, Function.Embedding.coe_subtype,
+  simp only [coe_sort_coe, RelEmbedding.coe_toEmbedding, comap_adj, Function.Embedding.coe_subtype,
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:232]: Can you fix this in a standalone PR? I think it should just be a case of adding some `simps` configuration to rename the projection

File: Mathlib/Combinatorics/SimpleGraph/Basic.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Basic.lean:1312]: The generated lemma `comap_Adj` does not follow the naming convention.

File: Mathlib/Combinatorics/SimpleGraph/Basic.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Basic.lean:1883]: @kmill had the same complaint in #7712 (which has some overlap with this PR). I will continue the discussion there.

File: Mathlib/Combinatorics/SimpleGraph/Basic.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/Combinatorics/SimpleGraph/Basic.lean:1312]: Please teach simps to generate the correct name

File: Mathlib/Combinatorics/SimpleGraph/Basic.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Basic.lean:1365]: Yes, to match the `comap` lemmas. I missed that in the Lean 3 PR.

File: Mathlib/Combinatorics/SimpleGraph/Basic.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Basic.lean:1314]: Actually, the generated `comap_adj` has explicit arguments that should be implicit. So I'm still removing the `simps` even though the generated lemma now has the correct name.

Comment (eric-wieser) [reply Mathlib/Combinatorics/SimpleGraph/Basic.lean:1314]: Can you file an issue about `simps` doing that?

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Basic.lean:1314]: #8275

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 6]
```diff
@@ -277,8 +334,88 @@ theorem cliqueFree_of_replaceVertex_cliqueFree [DecidableEq α] (s t : α) (h :
...
+
+protected theorem CliqueFree.cliqueFreeOn (hG : G.CliqueFree n) : G.CliqueFreeOn s n :=
+  fun _t _ ↦ hG _
+#align simple_graph.clique_free.clique_free_on SimpleGraph.CliqueFree.cliqueFreeOn
+
+theorem cliqueFreeOn_of_card_lt {s : Finset α} (h : s.card < n) : G.CliqueFreeOn s n :=
+  fun _t hts ht => h.not_le <| ht.2.symm.trans_le <| card_mono hts
+#align simple_graph.clique_free_on_of_card_lt SimpleGraph.cliqueFreeOn_of_card_lt
+
+--TOOD: Restate using `simple_graph.indep_set` once we have it
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:396]:
```suggestion
-- TODO: Restate using `SimpleGraph.IndepSet` once we have it
```
or is `IndepSet` a function not a type?

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 7]
```diff
@@ -291,6 +428,9 @@ def cliqueSet (n : ℕ) : Set (Finset α) :=
   { s | G.IsNClique n s }
 #align simple_graph.clique_set SimpleGraph.cliqueSet
 
+variable {G H}
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:431]: This doesn't seem to be on the port dashboard, but looks reasonable anyway.

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 8]
```diff
@@ -330,32 +509,55 @@ def cliqueFinset (n : ℕ) : Finset (Finset α) :=
...
+@[simp]
 theorem mem_cliqueFinset_iff : s ∈ G.cliqueFinset n ↔ G.IsNClique n s :=
   mem_filter.trans <| and_iff_right <| mem_univ _
 #align simple_graph.mem_clique_finset_iff SimpleGraph.mem_cliqueFinset_iff
 
-@[simp]
-theorem coe_cliqueFinset (n : ℕ) : (G.cliqueFinset n : Set (Finset α)) = G.cliqueSet n :=
-  Set.ext fun _ ↦ mem_cliqueFinset_iff _
-#align simple_graph.coe_clique_finset SimpleGraph.coe_cliqueFinset
-
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:341]: This looks like a nicer proof than the new one, and I don't see it in the dashboard diff; was this accidental?

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean:341]: Accidental yes. This file was already ported.

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean (hunk 7 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean:431]: Yes sorry I added that.

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean (hunk 8 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean:341]: This is because `mem_cliqueFinset_iff` has now moved below to take advantage of the `variable {G}` I added.

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean (hunk 6 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean:396]: It's currently nothing, but you're right nonetheless.

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean (hunk 8 above)
Comment (eric-wieser) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean:341]: I think you should optimize for the proof itself, not minimizing `variable` noise. You might want `variable {G} in`, (or `(G) in`), now that we're in Lean 4.

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
